US04155904
7-Chloro-1,3-dihydro-1-(2,2,2-trifluoroethyl)-5-(2'-fluorophenyl)-2H-1,4-benzodiazepin-2-one
Reflux 1.13 g. (0.0025 moles) of 2-[2-bromo-N-(2,2,2-trifluoroethyl)-acetamido]-5-chloro-2'-fluorobenzophenone, 1.4 g. (0.01 mole) of hexamethylenetetramine, and 0.98 g. (0.01 moles) of ammonium bromide together for 43/4 hours. Pour the reaction mixture into water and extract with dichloromethane. Dry the dichloromethane solution over anhydrous sodium sulfate, filter and evaporate. After recrystallization, the so-obtained 7-chloro-1,3-dihydro-1-(2,2,2-trifluoroethyl)-5-(2'fluorophenyl)-2H-1,4-benzodiazepin-2-one melts at 123°-125° C. Thin layer chromatography shows the product to be pure single spot material.

reactant | 2-[2-bromo-N-(2,2,2-trifluoroethyl)-acetamido]-5-chloro-2'-fluorobenzophenone | 0.0025 moles | BrCC(=O)N(CC(F)(F)F)C1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)Cl | C17H11BrClF4NO2
reactant | hexamethylenetetramine | 0.01 mole | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium bromide | 0.01 moles | [Br-].[NH4+]
solvent | water | O | H2O
product | 7-Chloro-1,3-dihydro-1-(2,2,2-trifluoroethyl)-5-(2'-fluorophenyl)-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(F)(F)F)=O)C2=C(C=CC=C2)F)C1 | C17H11ClF4N2O
